US08685980B2
Following Buchwald method B, 4-(6-amino-pyridin-3-ylmethyl)-1-methyl-piperazin-2-one (30 mg, 0.136 mmol) and 2-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (33 mg, 0.113 mmol) give 7-cyclopentyl-2-[5-(4-methyl-3-oxo-piperazin-1-ylmethyl)-pyridin-2-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (11 mg, 21%) [following SiO2 chromatography eluting with 1-10% (2M NH3 in MeOH)/DCM]

reactant | 4-(6-amino-pyridin-3-ylmethyl)-1-methyl-piperazin-2-one | 0.136 mmol, 30 mg | NC1=CC=C(C=N1)CN1CC(N(CC1)C)=O | C11H16N4O
reactant | 2-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.113 mmol, 33 mg | CN(C(=O)C1=CC2=C(N=C(N=C2)Cl)N1C1CCCC1)C | C14H17ClN4O
product | 7-cyclopentyl-2-[5-(4-methyl-3-oxo-piperazin-1-ylmethyl)-pyridin-2-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 2M, 11 mg | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)CN2CC(N(CC2)C)=O)N1C1CCCC1)C | C25H32N8O2
